US07074819B2
Step 3) Synthesis of 7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-{9-[4-(4,4,5,5,5-pentafluoropentyl)piperazinyl]nonyl}chroman
7-(Methoxymethoxy)-3-(4-methoxymethoxyphenyl)-4-{9-[4-(4,4,5,5,5-pentafluoropentyl)piperazinyl]nonyl}-3-methylchroman (210 mg, 0.294 mmol) was dissolved in 2N-HCl solution in methanol, and the mixture was stirred at 50° C. for 1 hour. The mixture was cooled down to room temperature, adjusted to pH=9 using aqueous NaHCO solution, and then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered, and the organic solvent was removed under reduced pressure. The concentrate was subjected to column chromatography (n-hexane:ethyl acetate=1:1) to give 162 mg (yield: 88%. (3RS,4RS):(3RS,4SR)=8:5) of the title compound as a white solid.

reactant | 7-(Methoxymethoxy)-3-(4-methoxymethoxyphenyl)-4-{9-[4-(4,4,5,5,5-pentafluoropentyl)piperazinyl]nonyl}-3-methylchroman | 0.294 mmol, 210 mg | COCOC1=CC=C2C(C(COC2=C1)(C)C1=CC=C(C=C1)OCOC)CCCCCCCCCN1CCN(CC1)CCCC(C(F)(F)F)(F)F | C38H55F5N2O5
solvent | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | 7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-{9-[4-(4,4,5,5,5-pentafluoropentyl)piperazinyl]nonyl}chroman | yield: 88% | OC1=CC=C2C(C(COC2=C1)(C)C1=CC=C(C=C1)O)CCCCCCCCCN1CCN(CC1)CCCC(C(F)(F)F)(F)F | C34H47F5N2O3
